US07612114B2
Synthesized from 1-bromo-4-fluoro-2-nitrobenzene according to an analogous synthetic method to Preparation Example 76, tributyl(4-fluoro-2-nitrophenyl)tin (7.1 g) and 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate (2.2 g) were used according to an analogous synthetic method to Preparation Example 77 to provide 3-(4-fluoro-2-nitrophenyl)-7-methoxy-1,2-dihydronaphthalene (1.4 g). The total amount of this compound was used according to an analogous synthetic method to Example 30 to provide the title compound (1.1 g).

reactant | 1-bromo-4-fluoro-2-nitrobenzene | BrC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | tributyl(4-fluoro-2-nitrophenyl)tin | 7.1 g | C(CCC)[Sn](C1=C(C=C(C=C1)F)[N+](=O)[O-])(CCCC)CCCC
reactant | 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate | 2.2 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2CC1)OC)(F)F | C12H11F3O4S
product | 3-(4-fluoro-2-nitrophenyl)-7-methoxy-1,2-dihydronaphthalene | 1.4 g | FC1=CC(=C(C=C1)C=1CCC2=CC(=CC=C2C1)OC)[N+](=O)[O-] | C17H14FNO3
